US09326973B2
A stirred suspension of 10% Pd—C (0.511 g, 0.480 mmol) in a solution of diethyl 2H-pyran-2,2(3H,6H)-dicarboxylate (2.74 g, 12.00 mmol) in EtOAc (50 mL) was hydrogenated under balloon pressure for 3 h. The suspension was filtered and the filtrate was evaporated to dryness to afford diethyl tetrahydro-2H-pyran-2,2-dicarboxylate as a clear oil. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 4.33-4.24 (m, 4H), 3.88-3.81 (m, 2H), 2.15-2.08 (m, 2H), 1.79-1.69 (m, 2H), 1.67-1.57 (m, 2H), 1.33-1.28 (m, 6H).

reactant | diethyl 2H-pyran-2,2(3H,6H)-dicarboxylate | 12.00 mmol, 2.74 g | O1C(CC=CC1)(C(=O)OCC)C(=O)OCC | C11H16O5
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | Pd—C | 0.480 mmol, 0.511 g | [Pd] | Pd
product | diethyl tetrahydro-2H-pyran-2,2-dicarboxylate | O1C(CCCC1)(C(=O)OCC)C(=O)OCC | C11H18O5
